US06617346B1
Hydrogen chloride gas was passed through a solution of 2-methoxy-5-methoxymethyl-benzonitrile (235 mg, 1.326 mmol) in anhydrous ethanol (15 mL) at room temperature. After 2 h, hydrogen chloride gas was stopped and the reaction vessel was sealed. After stirring at room temperature for 12 h, the reaction vessel was cooled to 0° C. and opened. The solvent was evaporated in vacuo and the residue was triturated in diethyl ether to afford ethyl 2-methoxy-5-methoxymethyl-benzimidate hydrochloride (340 mg, 99%).

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-methoxy-5-methoxymethyl-benzonitrile | 1.326 mmol, 235 mg | COC1=C(C#N)C=C(C=C1)COC | C10H11NO2
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | ethyl 2-methoxy-5-methoxymethyl-benzimidate hydrochloride | 340 mg, 99% | Cl.COC1=C(C(OCC)=N)C=C(C=C1)COC | InChI=1S/C12H17NO3.ClH/c1-4-16-12(13)10-7-9(8-14-2)5-6-11(10)15-3;/h5-7,13H,4,8H2,1-3H3;1H
